US08685969B2
11. 4-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(3-hydroxypyrrolidin-1-yl)-9H-pyrido[3,4-b]indole-1-carboxamide
To a homogeneous, orange solution of 7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (0.0456 g, 0.068 mmol) in tetrahydrofuran (0.684 mL) under nitrogen was added 1 M TBAF/THF (0.103 mL, 0.103 mmol). The reaction was stirred for 75 min and concentrated in vacuo. The residue was dissolved in DMSO (0.2 mL) and MeOH, and subjected to autoprep HPLC. The appropriate fractions were collected, basified with NaHCO3 (solid), and concentrated in vacuo. The residue was extracted with CH2Cl2 (3×). The combined extract was dried over Na2SO4 and concentrated in vacuo to give the desired product (0.0112 g, 0.020 mmol, 29.7% yield) as a light yellow solid. LC/MS (M+H)=552.11; 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for major atropoisomer) δ ppm 11.26 (s, 1H), 8.21 (d, J=2.8 Hz, 1H), 8.08 (s, 1H), 7.81 (s, 1H), 7.74 (d, J=1.94 Hz, 2H), 7.63-0.65 (m, 2H), 7.45-7.58 (m, 1H), 7.42 (d, J=1.11 Hz, 1H), 7.03 (d, J=8.60 Hz, 1H), 6.83 (d, J=1.66 Hz, 1H), 6.38 (dd, J1=9.0 Hz, J2=2.1 Hz, 1H), 5.02 (d, J=17.76 Hz, 1H), 4.95-4.98 (m, 1H), 4.94 (d, J=17.76 Hz, 1H), 4.43 (br. S, 1H), 3.47 (ddd, J1=10.2 Hz, J2=4.8 Hz, J3=2.2 Hz, 1H), 3.37-3.44 (m, 1H), 3.31-3.37 (m, 1H), 3.15 (d, J=10.0 Hz, 1H), 2.07 (dd, J=8.25, 4.30 Hz, 1H), 1.90-1.96 (m, 1H), 1.88 (s, 3H).

reactant | 7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.068 mmol, 0.0456 g | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)Cl)=O)C)C(=O)N | C37H40ClN5O3Si
reactant | TBAF THF | 0.103 mmol, 1 M, 0.103 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
solvent | tetrahydrofuran | 0.684 mL | O1CCCC1 | C4H8O
product | 4-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(3-hydroxypyrrolidin-1-yl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.020 mmol, 0.0112 g, 29.7% yield | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CC(CC2)O)C(=O)N)C | C31H26ClN5O3
